US07786132B2
(iii) 1-[2-(5-Bromo-4-{2-[hydroxy(phenyl)methyl]thiazol-5-yl}pyrimidin-2-ylamino)ethyl]-5,5-dimethylimidazolidine-2,4-dione
A solution of 150 mg (0.33 mmol) of 5-bromo-2-chloro-4-{2-[phenyl(trimethylsilyloxy)-methyl]-thiazol-5-yl}pyrimidine, 85 mg (0.50 mmol) of 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione and N,N-diisopropylethylamine (0.17 mL, 0.99 mmol) in 4 mL of iPrOH and 1 mol of CHCl3 was heated in a microwave to 170° C. for 20 min and then treated with 0.75 mL of a 1 M solution of tetra-n-butylammonium fluoride in THF for 10 min at rt. The reaction solution was concentrated in vacuo and the crude solid product was purified by flash chromatography eluting with a linear gradient of 75% EtOAc in hexane to 100% EtOAc to deliver the title compound. MS (M+H)+ 519.

reactant | 5-bromo-2-chloro-4-{2-[phenyl(trimethylsilyloxy)-methyl]-thiazol-5-yl}pyrimidine | 0.33 mmol, 150 mg | BrC=1C(=NC(=NC1)Cl)C1=CN=C(S1)C(O[Si](C)(C)C)C1=CC=CC=C1 | C17H17BrClN3OSSi
reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.50 mmol, 85 mg | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | N,N-diisopropylethylamine | 0.99 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | CHCl3 | 1 mol | C(Cl)(Cl)Cl | CHCl3
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | iPrOH | 4 mL | CC(C)O | C3H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-(5-Bromo-4-{2-[hydroxy(phenyl)methyl]thiazol-5-yl}pyrimidin-2-ylamino)ethyl]-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CN=C(S1)C(C1=CC=CC=C1)O | C21H21BrN6O3S
